US08198466B2
Preparation of 2-(N-Methylamino)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran
To a stirred solution of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran (20 mg, 0.066 mmol) in acetonitrile (3 mL) was added the solution of methyamine (1 mL, excess as reactant and base), and the reaction mixture was stirred at room temperature for 1 hour when the precipitates appeared. The solvent was distilled under vacuo and the crude was dissolved in tetrahydrofuran (2 mL), 1M hydrochloric acid (1 mL) was added and the reaction mixture was stirred for 1 hour then diluted with dichloromethane (10 mL) and washed with water. The organic layer was dried over magnesium sulfate and solvent was distilled under vacuo. The crude was purified by PTLC (eluent=Hexane:ethylacetate:triethylamine; 2:8:1%) to gave the title compound as a yellow-green solid (5 mg, 29%); 1H NMR (300 MHz, CDCl3) δ 8.91(broad, 1H, NH), 6.93(s, 2H, benzoyl Hs), 6.59(d, 1H, J=8.56 Hz), 6.46(d, 1H, J=8.51 Hz), 5.61(bs, 1H, OH), 3.91(s, 3H, OMe), 3.86(s, 3H, OMe), 3.84(s, 6H, 2×OMe), 3.28(d, 3H, J=5.28 Hz).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 0.066 mmol, 20 mg | BrC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2OC(C)=O)OC | C21H19BrO8
reactant | methyamine | 1 mL | CN | CH5N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 2-(N-Methylamino)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | 5 mg, 29% | CNC=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2O)OC | C20H21NO7
